* ==================================================================
* BASELINE - this one FAILS on purpose.
*
* Peak V(hsg)-V(sw) reaches 1.65 V against a 1.4 V threshold.
* That is false turn-on: the off device is switched on by its own
* Miller capacitance. This is the problem the project exists to fix.
*
* GaN half-bridge double-pulse test with a segmented gate driver.
* SELF-CONTAINED - device model, driver and testbench are all inlined.
* Nothing else needs to be in this folder.
*
* HOW TO RUN
*   LTspice -> File -> Open -> set file type to "All Files" -> this file
*   Press Run (the running man).
*   Right-click the plot pane -> Add Trace, and add:
*        V(sw)              the switch node
*        V(lsg)             low-side gate
*        V(hsg)-V(sw)       HIGH-SIDE GATE  <- the one that matters
*
* WHAT TO LOOK FOR  (verified against ngspice 42)
*   gate on-state at t=0.9us .............  5.00 V
*   peak V(lsd) after t=1us ..............  122.4 V   (bus is 100 V)
*   peak V(hsg)-V(sw) over 2.015-2.10us ..  1.65 V  <-- ABOVE Vth, FAILS
*   threshold Vth ........................  1.40 V
*
* Edit the PARAM BLOCK below to change the experiment.
* ==================================================================
* Double-pulse test: GaN half-bridge with segmented gate drivers
* ===================================================================
* dpt.cir -- half-bridge double-pulse testbench
*
* Sequence (all timing is what the FPGA would emit):
*   0    .. T1   LS on, HS off        -- settle, inductor at ILOAD
*   T1        LS turns OFF            -- E_off, V_DS overshoot, ringing
*   T1..T2    DEAD TIME               -- HS conducts in 3rd quadrant, E_dt
*   T2        HS turns ON
*   T3        HS turns OFF
*   T3..T4    DEAD TIME
*   T4        LS turns ON  (hard)     -- E_on, and CROSSTALK on the HS gate
*
* The crosstalk event of interest is at T4: SW slews up... no, DOWN to 0,
* so the HS device sees dV_DS/dt > 0 across its Miller capacitance and
* its gate is pushed toward Vth.  Margin = Vth - max(V_GS,HS).
* ===================================================================

* ---- begin egan.lib ----
* ===================================================================
* egan.lib -- Behavioural enhancement-mode GaN HEMT model
* Target: EPC2010C-class device (200 V, ~25 mOhm, Vth ~1.4 V)
*
* WHY BEHAVIOURAL: vendor SPICE subcircuits are LTspice-dialect and
* not portable to Spectre.  This model is written from datasheet
* quantities only, and is deliberately SYMMETRIC in the channel so
* that third-quadrant (reverse) conduction falls out of the physics
* instead of being bolted on.  GaN has no body diode: reverse
* conduction is channel conduction, and its drop is
*        V_SD = Vth + |V_GS,off| + I*Rds(on)
* which is exactly what the symmetric square law below produces.
* That coupling -- negative off-bias buys crosstalk margin and pays
* for it in dead-time conduction loss -- is the physical core of the
* whole project, so it must not be an approximation.
* ===================================================================

* smooth max(x,0) -- keeps the Newton solver happy at the kink
.func smax(x) {0.5*(x+sqrt(x*x+1e-4))}

* --- junction capacitances, realised as non-conducting diodes -------
* IS=1e-30 AND N=40 => no current at any bias we see.  N is large on
* purpose: with N=1 the gate-drain "capacitor" forward-conducts once
* V_G > V_D (i.e. whenever the device is ON) and clamps the gate.
* We want ONLY the C(V) law here.
* to ngspice, LTspice and Spectre, unlike behavioural C= expressions.
.model DGD D(IS=1e-30 N=40 CJO=150p VJ=1.0 M=0.65 FC=0.5)  ; Crss (Miller)
.model DDS D(IS=1e-30 N=40 CJO=800p VJ=1.0 M=0.5  FC=0.5)  ; Coss-Crss

.subckt EGAN d g s params: vth=1.4 bh=5.55 rg=0.4 cgs=350p lg=0.3n ls=0.15n

* package / bond inductance
Lgint  g   gi  {lg}
Lsint  s   si  {ls}

* internal gate resistance
Rgint  gi  g2  {rg}

* --- symmetric square-law channel ----------------------------------
* I = bh * [ smax(Vgs-Vth)^2 - smax(Vgd-Vth)^2 ]
*   Vgd > Vth with Vds < 0  =>  reverse conduction, automatically.
Bch d si I = {bh} * ( smax(v(g2,si)-{vth})*smax(v(g2,si)-{vth})
+                   - smax(v(g2,d) -{vth})*smax(v(g2,d) -{vth}) )

* --- capacitances ---------------------------------------------------
Cgs   g2  si  {cgs}
Dgd   g2  d   DGD
Dds   si  d   DDS

.save V(sw) V(lsg) V(hsg) V(lsd) V(hsd)
.ends EGAN
* ---- end egan.lib ----
* ---- begin segdrv.lib ----
* ===================================================================
* segdrv.lib -- Segmented gate driver output stage
*
* N=8 thermometer-coded pull-up slices, N=8 pull-down slices, plus a
* separately-timed active Miller clamp.  Slice count is set by the
* params npu / npd (1..8), which is the 4+4 bits the FPGA emits.
*
* Electrically N parallel slices of runit == runit/N, but the stage is
* built out of real discrete slices so that each slice maps 1:1 onto a
* sized transistor when this is redrawn in Cadence.  Do not "optimise"
* this into a single variable resistor -- the discretisation, and its
* monotonicity, is a result to report.
*
* Pins:  pu  pd  clk  out  vp  vn  ref
*   pu   : logic high => pull up   (referenced to ref)
*   pd   : logic high => pull down (referenced to ref)
*   clk  : logic high => Miller clamp engaged
*   ref  : local logic/driver ground (0 for low side, SW for high side)
* ===================================================================

.model SWP SW(Ron=0.01 Roff=1e9 Vt=0.5 Vh=0.05)

.subckt SEGDRV pu pd clk out vp vn ref params: npu=8 npd=8 runit=8 rclamp=0.5

* ---- pull-up bank : slice enabled if npu >= i --------------------
Spu1 vp nu1 pu ref SWP
Rpu1 nu1 out {runit}
Spu2 vp nu2 pu ref SWP
Rpu2 nu2 out {runit}
Spu3 vp nu3 pu ref SWP
Rpu3 nu3 out {runit}
Spu4 vp nu4 pu ref SWP
Rpu4 nu4 out {runit}
Spu5 vp nu5 pu ref SWP
Rpu5 nu5 out {runit}
Spu6 vp nu6 pu ref SWP
Rpu6 nu6 out {runit}
Spu7 vp nu7 pu ref SWP
Rpu7 nu7 out {runit}
Spu8 vp nu8 pu ref SWP
Rpu8 nu8 out {runit}

* ---- pull-down bank : slice enabled if npd >= i ------------------
Spd1 nd1 vn pd ref SWP
Rpd1 out nd1 {runit}
Spd2 nd2 vn pd ref SWP
Rpd2 out nd2 {runit}
Spd3 nd3 vn pd ref SWP
Rpd3 out nd3 {runit}
Spd4 nd4 vn pd ref SWP
Rpd4 out nd4 {runit}
Spd5 nd5 vn pd ref SWP
Rpd5 out nd5 {runit}
Spd6 nd6 vn pd ref SWP
Rpd6 out nd6 {runit}
Spd7 nd7 vn pd ref SWP
Rpd7 out nd7 {runit}
Spd8 nd8 vn pd ref SWP
Rpd8 out nd8 {runit}

* ---- active Miller clamp : strong, separately timed --------------
Sclk out nclk clk ref SWP
Rclk nclk vn {rclamp}

.save V(sw) V(lsg) V(hsg) V(lsd) V(hsd)
.ends SEGDRV
* ---- end segdrv.lib ----

* ==================== PARAM BLOCK (swept by run_sweep.py) ==========
.param VBUS=100
.param ILOAD=10
.param VDRV=5
.param VNEG=0
.param NPU_LS=8
.param NPD_LS=8
.param NPU_HS=8
.param NPD_HS=8
.param DT=15n
.param CLKEN=0
.param CLKDEL=4n
.param RUNIT=8
.param TJ=25
* ==================== END PARAM BLOCK ==============================

* temperature scaling of the GaN device (datasheet trend:
*   Rds(on) roughly doubles 25->125 C, Vth falls slightly)
.param KT   = {1 + 0.009*(TJ-25)}
.param BH_T = {5.55/KT}
.param VTH_T= {1.4 - 0.0015*(TJ-25)}

.param VOUT  = {VBUS/2}
.param LLOOP = 3n
.param LLOAD = 100u
.param TR    = 0.1n
.param T1 = 1u
.param T2 = {T1+DT}
.param T3 = 2u
.param T4 = {T3+DT}
.param TSTOP = 3u

* ---------------- power stage --------------------------------------
Vbus   bus 0 DC {VBUS}
Rloop  bus n1  0.3                    ; loop R including skin effect at ~300 MHz.
*                                      10m would give Q~600, which is unphysical:
*                                      real GaN half-bridges ring ~6 cycles, not 30.
Lloop  n1  hstop {LLOOP}
Vshs   hstop hsd DC 0                 ; HS drain current sense
Xhs    hsd hsg sw EGAN params: vth={VTH_T} bh={BH_T}
Vsls   sw  lsd DC 0                   ; LS drain current sense
Xls    lsd lsg 0  EGAN params: vth={VTH_T} bh={BH_T}

Lload  out sw {LLOAD} IC={ILOAD}
Vout   out 0 DC {VOUT}

* ---------------- FPGA timing (gnd-referenced logic) ---------------
Vpwmls pwmls 0 PWL(0 1 {T1} 1 {T1+TR} 0 {T4} 0 {T4+TR} 1)
Vpwmhs pwmhs 0 PWL(0 0 {T2} 0 {T2+TR} 1 {T3} 1 {T3+TR} 0)
Vclkls lsclk 0 PWL(0 0 {T1+CLKDEL} 0 {T1+CLKDEL+TR} {CLKEN} {T4} {CLKEN} {T4+TR} 0)
Vclkhs clkhs 0 PWL(0 {CLKEN} {T2} {CLKEN} {T2+TR} 0 {T3+CLKDEL} 0 {T3+CLKDEL+TR} {CLKEN})

* ---------------- low-side driver (gnd referenced) -----------------
Vlsvp  lsvp 0 DC {VDRV}
Vlsvn  lsvn 0 DC {VNEG}
Blspu  lspu 0 V = {v(pwmls)}
Blspd  lspd 0 V = {1-v(pwmls)}
Xdrvls lspu lspd lsclk lsg lsvp lsvn 0 SEGDRV
+      params: npu={NPU_LS} npd={NPD_LS} runit={RUNIT} rclamp=0.5

* ---------------- high-side driver (floating on SW) ----------------
* ideal level shifters -- a real design needs a proper HV shifter,
* which is listed as future work, not simulated here.
Vhsvp  hsvp sw DC {VDRV}
Vhsvn  hsvn sw DC {VNEG}
Bhspu  hspu sw V = {v(pwmhs)}
Bhspd  hspd sw V = {1-v(pwmhs)}
Bhsclk hsclkl sw V = {v(clkhs)}
Xdrvhs hspu hspd hsclkl hsg hsvp hsvn sw SEGDRV
+      params: npu={NPU_HS} npd={NPD_HS} runit={RUNIT} rclamp=0.5

* ---------------- analysis -----------------------------------------
* NOTE: trapezoidal on purpose.  Gear damps numerically and would
* quietly flatter the ringing metric, which is one of the objectives.
.options reltol=1e-3 abstol=1e-10 vntol=1e-6 chgtol=1e-15 gmin=1e-12
.ic v(sw)=0 v(lsg)={VDRV} v(hsg)={VNEG} v(out)={VOUT}

.tran 0.02n {TSTOP} 0 0.05n uic

.save V(sw) V(lsg) V(hsg) V(lsd) V(hsd)
.end
